US06673941B2
a) Methanesulfonic acid 3-(3-methoxy-phenyl)-propyl ester
In a manner analogous to the preparation of Example 83(a), 3-(3-methoxy-phenyl)-propan-1-ol (0.83 g, 5.00 mmol), Et3N (1.40 mL, 10.0 mmol) and MsCl (0.46 mL, 6.00 mmol) gave the desired compound as a light brown oil. 1H NMR (300 MHz, CDCl3) δ2.04-2.09 (m, 2H), 2.69-2.74 (t, 2H) 2.99 (s, 3H), 3.82 (s, 3H), 4.22-4.26 (t, 2H), 6.70-6.80 (m, 3H), 7.16-7.19 (m, 1H).

reactant | 3-(3-methoxy-phenyl)-propan-1-ol | 5.00 mmol, 0.83 g | COC=1C=C(C=CC1)CCCO | C10H14O2
reactant | Et3N | 10.0 mmol, 1.40 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 6.00 mmol, 0.46 mL | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 3-(3-methoxy-phenyl)-propyl ester | COC=1C=C(C=CC1)CCCOS(=O)(=O)C | C11H16O4S
